US04283539
1,2-Dihydro-3-methyl-1-oxo-4-isoquinoline acetic acid (770 mg., 3.30 mmol) and phosphorous oxychloride (1.0 ml. 10.7 mmol) were refluxed in 8 ml. ethyl acetate for 16 hr then vacuum evaporated to dryness. The residue was partitioned between water and ethyl acetate. The aqueous phase was washed with ether. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and vacuum evaporated to yield a viscous, homogeneous oil, 1-chloro-3-methyl-4-isoquinoline acetic acid; 772 mg. (99%). This oil (623 mg., 2.65 mmol) in 6 ml. dimethylformamide was added to a solution of 3,4-dichlorobenzyl alcohol (2.75 g., 15.5 mmol) and potassium tert-butoxide (600 mg., 534 mmol) in 2 ml. dimethylformamide and the mixture was heated at 115° for 3 hr. After cooling the mixture was poured onto crushed ice and washed with 3×60 ml. ether. The basic aqueous layer was acidified to pH 3 with 1 N hydrochloric acid and extracted 3×100 ml. ether. The organic extract was dried over magnesium sulfate, filtered, and vacuum evaporated to an oily solid; 568 mg. (57%). Trituration of this residue with methanol then hexane and fractional crystallization from chloroform afforded pure title compound: 44 mg. (4%), mp 180°-183°.

reactant | 1,2-Dihydro-3-methyl-1-oxo-4-isoquinoline acetic acid | 3.30 mmol, 770 mg | CC=1NC(C2=CC=CC=C2C1CC(=O)O)=O | C12H11NO3
reactant | phosphorous oxychloride | 10.7 mmol, 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-chloro-3-methyl-4-isoquinoline acetic acid | ClC1=NC(=C(C2=CC=CC=C12)CC(=O)O)C | C12H10ClNO2
